US04985444
A mixture of 2-phenylpyrazolo[1,5-a]pyridine (0.50 g), 2,4-piperidinedione (0.292 g), concentrated sulfuric acid (1 drop) and acetic acid (0.5 ml) was heated at 135° C. for 13.5 hours. A saturated aqueous solution of sodium hydrogen carbonate (20 ml) was added to the reaction mixture and the mixture was extracted with chloroform (20 ml×2). The combined extract was washed with a saturated aqueous solution of sodium chloride (20 ml) and dried over magnesium sulfate. The solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of chloroform and ethyl acetate (9:1) and recrystallized from ethyl acetate to give crystals of 3-(2-oxo-1,2,5,6-tetrahydropyridin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine.

reactant | 2-phenylpyrazolo[1,5-a]pyridine | 0.50 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1 | C13H10N2
reactant | 2,4-piperidinedione | 0.292 g | N1C(CC(CC1)=O)=O | C5H7NO2
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 3-(2-oxo-1,2,5,6-tetrahydropyridin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | O=C1NCCC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H15N3O
